
* SPICE netlist for LAB 2 (13-01-26) code 1
.include "DIC Dataset/cmos_65nm.txt"
M1 D G 0 0 nmos W=32u L=65n
Vgs G 0 DC 1.2
Vds D 0 DC 1.2

* Simulation
.dc Vds 0 1.2 0.01 Vgs 0 1.2 0.3
.control 
run
set color0 = white
set plotcolor = black
set grid on
set gridcolor = light-gray

set xlabel="Vds (V)"
set ylabel="Id (A)"
set title="MOSFET I-V Characteristics"
set linewidth 2

plot -I(Vds)
set hcopydevtype=svg
hardcopy mos_dc-65nm.svg -i(Vds)
.endc
.end