cmos_inverter[U24EC123]

.include cmos_65nm.txt

M1 d g 0 0 nmos W = 32u L = 65n 
VDD vdd 0 1.2
Rl vdd d 1k
//vin g 0 1.2
Vin g 0 PULSE(0 1.2 0 20n 20n 100n 230n)       ;PULSE(Vlow Vhigh Tdelay Tr Tf Ton Tperiod)



.tran 0.1n 300n 
.control

run
plot v(d) v(g) v(vdd)
set hcopydevtype = postscript
set hcopydevtype = svg
set color0= white
hardcopy nmos_inverter_trans.ps v(d) v(g)
hardcopy nmos_inverter_trans.svg v(d) v(g)
.endc
.end
