
* SPICE netlist for LAB 2 (13-01-26) code 1
.include "DIC Dataset/cmos_65nm.txt"
M1 D G 0 0 pmos W=32u L=65n
Vgs G 0 DC -1.2
Vds D 0 DC -1.2

* Simulation
.dc Vds 0 -1.2 -0.01 Vgs 0 -1.2 -0.3
.control 
run
set color0 = white
set plotcolor = black
set grid on
set gridcolor = light-gray

set xlabel="Vds (V)"
set ylabel="Id (A)"
set title="MOSFET I-V Characteristics"
set linewidth 2

plot -I(Vds)
set hcopydevtype=postscript
* ensure the directory exists and create it if needed
!mkdir -p "LAB_2-13_01_26/graphs/"
hardcopy sample_pmos.ps I(Vds)
.endc
.end