cmos_inverter

.include cmos_65nm.txt

M1 d g 0 0 nmos W = 32u L = 65n 
VDD vdd 0 1.2
Rl vdd d 10k
vin g 0 1.2
.dc vin 0 1.2 0.01

.control 
run
set wr_singlescale
set wr_vecnames
option numdgt=6
wrdata /tmp/circuit_data.txt v(g) v(d)
quit
.endc

.end
