
cmos_inverter[U24EC123]

.include cmos_65nm.txt

VDD v_dd 0 1.2
M1 v_out v_dd V_dd 0 nmos W = 160n L = 65n
M2 0 v_in v_out 0 nmos W = 3200n  L = 65n
Vin v_in 0 PULSE(0 1.2 0 20n 20n 100n 230n)       ;PULSE(Vlow Vhigh Tdelay Tr Tf Ton Tperiod)


.tran 0.1n 300n 
.control

run
plot v(v_out) v(v_in)
set hcopydevtype = postscript
set hcopydevtype = svg
set color0= white
hardcopy nmos_inverter_1_20_active_load_trans.ps v(v_out) v(v_in)
hardcopy nmos_inverter_1_20_active_load_trans.svg v(v_out) v(v_in)

.endc
.end