.title CMOS_INVERTER_U24EC123
.include cmos_65nm.txt

m2 out 0 a a pmos w=21u l=65n
vdd a 0 1.2

m1 out g 0 0 nmos w=32u l=65n
vin g 0 1.2

.dc vin 0 1.2 0.001

.control
run

* ---- Plot VTC ----
plot v(g) v(out)


* ---- Derivative (Gain) ----
let gain = deriv(v(out))
* ---- Find VIL (1st slope = -1 crossing) ----
meas dc VIL when gain=-1 cross=1
* ---- Find VIH (2nd slope = -1 crossing) ----
meas dc VIH when gain=-1 cross=2
* ---- Find VOH and VOL ----
meas dc VOH max v(out)
meas dc VOL min v(out)
* ---- Calculate Noise Margins ----
let NMH = VOH - VIH
let NML = VIL - VOL


set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = postscript 
hardcopy test.ps v(g) v(out)

print VOH VOL VIL VIH NMH NML

.endc
.end
