.title CMOS_INVERTER_U24EC123
.include cmos_90nm.txt

m2 out 0 a a pmos w=21u l=65n
vdd a 0 1.2

m1 out g 0 0 nmos w=32u l=65n

*vin g 0 1.2
*pulse(Vlow Vhigh delay rise fall on_time period)
vin g 0 pulse(0 1.2 0 50n 50n 200n 500n)


*.dc vin 0 1.2 0.001
*.tran <time_step> <stop_time> [start_time] [max_step]
.tran 20n 800n

.control
run

* ---- Plot VTC ----
plot v(g) v(out)

* ---- Rise Time (10% to 90%) ----
meas tran trise  TRIG v(out) VAL=0.12 RISE=1  TARG v(out) VAL=1.08 RISE=1

* ---- Fall Time (90% to 10%) ----
meas tran tfall  TRIG v(out) VAL=1.08 FALL=1  TARG v(out) VAL=0.12 FALL=1

* Color the graph
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = postscript 
hardcopy cmos_tran_90n.ps v(g) v(out)

print trise tfall

.endc
.end
